US04171367
1-Acetyl-2(1-isopropyl-3-methyl-5-pyrazolyl)amino-2-imidazoline
5-amino-1-isopropyl-3-methylpyrazole (J. Gen. Chem. USSR 31 234, 1961) (19.3 g.) and 1-acetyl-2-imidazolidinone (20.1 g.) were reacted as described in Example I to give 12.73 g. of product, mp 145°-147° C.

reactant | 5-amino-1-isopropyl-3-methylpyrazole | 19.3 g | NC1=CC(=NN1C(C)C)C | C7H13N3
reactant | 1-acetyl-2-imidazolidinone | 20.1 g | C(C)(=O)N1C(NCC1)=O | C5H8N2O2
product | 1-Acetyl-2(1-isopropyl-3-methyl-5-pyrazolyl)amino-2-imidazoline | C(C)(=O)N1C(=NCC1)NC1=CC(=NN1C(C)C)C | C12H19N5O
